US06465468B1
{4,5-Dimethoxy-2-[4-(5-trifluoromethylpyridin-2-yl)piperazine-1-sulfonyl]phenyl}acetic acid
{4,5-Dimethoxy-2-[4-(5-trifluoromethylpyridin-2-yl)piperazine-1-sulfonyl]phenyl}acetic acid methyl ester (0.3 g) was taken up in methanol (10 ml), tetrahydrofuran (10 ml) and water (10 ml). Lithium hydroxide (125 mg) was added and the reaction stirred at RT for 16 hrs. The reaction was diluted with water (10 ml), its volume reduced to one third in vacuo, and the reaction extracted with diethyl ether (3×15 ml). The aqueous layer was acidified to pH 4 with 2M hydrochloric acid and extracted with ethyl acetate (4×25 ml). The combined ethyl acetate extracts were washed with water (25 ml) and brine (25 ml) and dried over sodium sulphate. The solvent was removed in vacuo to yield the title compound as a white solid (291 mg, 100%).

reactant | {4,5-Dimethoxy-2-[4-(5-trifluoromethylpyridin-2-yl)piperazine-1-sulfonyl]phenyl}acetic acid methyl ester | 0.3 g | COC(CC1=C(C=C(C(=C1)OC)OC)S(=O)(=O)N1CCN(CC1)C1=NC=C(C=C1)C(F)(F)F)=O | C21H24F3N3O6S
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | Lithium hydroxide | 125 mg | [OH-].[Li+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | {4,5-Dimethoxy-2-[4-(5-trifluoromethylpyridin-2-yl)piperazine-1-sulfonyl]phenyl}acetic acid | 291 mg, 100% | COC1=CC(=C(C=C1OC)CC(=O)O)S(=O)(=O)N1CCN(CC1)C1=NC=C(C=C1)C(F)(F)F | C20H22F3N3O6S
